US07018988B2
(2S,4EZ)-4-(cyanomethylene)-N1-(3,5-dichlorophenyl)-N2-(9-ethyl-9H-carbazol-3-yl)-1,2-pyrrolidinedicarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(cyanomethylene)-2-pyrrolidinecarboxylic acid, 1,3-dichloro-5-isocyanatobenzene, and 9-ethyl-9H-carbazol-3-amine the title compound was obtained in 60% purity by LC/MS. MS(ESI+): m/z=532.8.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(cyanomethylene)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=CC#N)C(=O)O | C12H16N2O4
reactant | 1,3-dichloro-5-isocyanatobenzene | ClC1=CC(=CC(=C1)N=C=O)Cl | C7H3Cl2NO
reactant | 9-ethyl-9H-carbazol-3-amine | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)N | C14H14N2
product | (2S,4EZ)-4-(cyanomethylene)-N1-(3,5-dichlorophenyl)-N2-(9-ethyl-9H-carbazol-3-yl)-1,2-pyrrolidinedicarboxamide | C(#N)C=C1C[C@H](N(C1)C(=O)NC1=CC(=CC(=C1)Cl)Cl)C(=O)NC=1C=CC=2N(C3=CC=CC=C3C2C1)CC | C28H23Cl2N5O2
